US05585394
A) Methyl 4-[3-cyclohexyl-2,3-dihydro-5-(2-methoxyethoxy)-2-oxo-1H-benzimidazol-1-yl]sulfonyl-3-methoxybenzoate
0.095 g of sodium hydride as a 60% dispersion in oil is added in portions to a mixture of 0.7 g of 3-cyclohexyl-1,3-dihydro-5-(2-methoxyethoxy)-2H-benzimidazol-2-one and 50 ml of DMF and the mixture is stirred for 30 minutes at RT. 0.6 g of 4-methoxycarbonyl-2-methoxybenzenesulfonyl chloride is then added and the mixture is stirred for two hours at RT. The reaction mixture is poured into a mixture of water and ice, extracted with AcOEt, washed with water and dried over Na2SO4 and the solvent is evaporated off under vacuum to give 0.8 g of the expected product, which is used as such in the next step.

reactant | sodium hydride | 0.095 g | [H-].[Na+]
reactant | 3-cyclohexyl-1,3-dihydro-5-(2-methoxyethoxy)-2H-benzimidazol-2-one | 0.7 g | C1(CCCCC1)N1C(NC2=C1C=C(C=C2)OCCOC)=O | C16H22N2O3
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 4-methoxycarbonyl-2-methoxybenzenesulfonyl chloride | 0.6 g | COC(=O)C1=CC(=C(C=C1)S(=O)(=O)Cl)OC | C9H9ClO5S
solvent | water | O | H2O
product | Methyl 4-[3-cyclohexyl-2,3-dihydro-5-(2-methoxyethoxy)-2-oxo-1H-benzimidazol-1-yl]sulfonyl-3-methoxybenzoate | 0.8 g | C1(CCCCC1)N1C(N(C2=C1C=C(C=C2)OCCOC)S(=O)(=O)C2=C(C=C(C(=O)OC)C=C2)OC)=O | C25H30N2O8S
